US07939528B2
A solution of the 3,5-difluoro-2-nitroaniline (0.348 g, 2.0 mmol), Cs2CO3 (1.63 g, 5 mmol), and 4-hydroxybenzaldehyde (0.268 g, 2.2 mmol) in dimethylsulfoxide (2 mL) was heated to 80 degrees Centigrade for 1 hour and then cooled. Water was added and the organics extracted using ethyl acetate (2×50 mL). The combined organics were then washed once in brine and dried (Na2SO4), filtered and concentrated. Chromatography on silica gel (gradient of 20%-60% ethyl acetate/hexanes) eluted the product and the fractions were concentrated. The residue was refluxed in 96% formic acid (4 mL) until the reaction was complete conversion of the aniline was observed by TLC (−1.5 h) and then cooled and poured onto ice-water. The organics were extracted with ethyl acetate (2×25 mL) and the combined organics washed once in water, once in brine, dried (Na2SO4), filtered and concentrated to give 0.230 g of the {3-fluoro-5-[(4-formylphenyl)oxy]-2-nitrophenyl}formamide as a solid.

reactant | 3,5-difluoro-2-nitroaniline | 2.0 mmol, 0.348 g | FC=1C(=C(N)C=C(C1)F)[N+](=O)[O-] | C6H4F2N2O2
reactant | Cs2CO3 | 5 mmol, 1.63 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-hydroxybenzaldehyde | 2.2 mmol, 0.268 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | Water | O | H2O
solvent | dimethylsulfoxide | 2 mL | CS(=O)C | C2H6OS
product | {3-fluoro-5-[(4-formylphenyl)oxy]-2-nitrophenyl}formamide | 0.230 g | FC=1C(=C(C=C(C1)OC1=CC=C(C=C1)C=O)NC=O)[N+](=O)[O-] | C14H9FN2O5
